US04190666
4,5-bis(4-Fluorophenyl)-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole Sodium Salt
A mixture of 4,5l -bis(4-fluorophenyl)-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole (5.0 g., 0.0119 mole), sodium methoxide (0.6 g., 0.0111 mole) and ether (300 ml.) is stirred overnight at room temperature. The solid is collected and washed with ether to give 2.1 g. of the sodium salt of 4,5-bis(4-fluorophenyl)-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole, m.p. 290°-292°.

reactant | sodium methoxide | 0.0111 mole, 0.6 g | C[O-].[Na+]
reactant | sodium | [Na] | Na
reactant | 4,5-bis(4-fluorophenyl)-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole | FC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)F)S(=O)(=O)C(C(F)F)(F)F | C17H10F6N2O2S
solvent | ether | 300 ml | CCOCC | C4H10O
product | 4,5-bis(4-Fluorophenyl)-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole Sodium Salt | [Na].FC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)F)S(=O)(=O)C(C(F)F)(F)F | InChI=1S/C17H10F6N2O2S.Na/c18-11-5-1-9(2-6-11)13-14(10-3-7-12(19)8-4-10)25-16(24-13)28(26,27)17(22,23)15(20)21;/h1-8,15H,(H,24,25);
